US07842713B2
Ethyl 4-(acetyloxy)-2-methyl-1-benzothiophene-6-carboxylate was dissolved in absolute ethanol (200 mL). Potassium carbonate (7 g, 50 mmol) was added. The reaction mixture was stirred for 3 h at 60° C. and diluted with 200 mL of dichloromethane. The suspension was filtered. The precipitate was washed by 100 mL of dichloromethane. The combined solutions were washed by 200 mL of a 10% aqueous solution of citric acid and evaporated in vacuum to dryness. The obtained crude product was chromatographed on a layer of silica gel (150×100 mm) with hexane/ethyl acetate mixture, 2:1 as eluent to give 5.5 g (23 mmol, 79%) of 4-Hydroxy-2-methyl-1-benzothiophene-6-carboxylate ethyl ester as a cream solid.

reactant | Ethyl 4-(acetyloxy)-2-methyl-1-benzothiophene-6-carboxylate | C(C)(=O)OC1=CC(=CC2=C1C=C(S2)C)C(=O)OCC | C14H14O4S
reactant | Potassium carbonate | 50 mmol, 7 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4-Hydroxy-2-methyl-1-benzothiophene-6-carboxylate ethyl ester | 23 mmol, 5.5 g, 79% | C(C)OC(=O)C1=CC2=C(C=C(S2)C)C(=C1)O | C12H12O3S
